US07253168B2
A solution of [(6R,9aS)-6-(4-hydroxy-2,3-dimethylphenyl)-octahydro-pyrido[1,2-a]pyrazin-2-yl]-(6-trifluoromethyl-pyridin-3-yl)-methanone (1.54 g, 3.55 mmol) in CH3CN is treated with powdered KOH (400 mg, 7.10 mmol, 1.5 eq) and 1-bromopropane (5.33 mmol, 2.0 eq) and heated in a sealed tube reactor with stirring in a 60° C. oil bath for 20.5 h. After cooling, the mixture is filtered through a CELITE pad. The pad is washed with CH2Cl2 and the solution is concentrated in vacuo. The residue is purified by flash chromatography on silica gel eluting with 50%-40% hexanes/EtOAc to yield {(6R,9aS)-6-(2,3-dimethyl-4-propoxyphenyl)-hexahydro-1H-pyrido[1,2-a]pyrazin-2(6H)-yl}-(6-(trifluoromethyl)pyridin-3-yl)methanone. LC/MS: 476 (M+1).

reactant | [(6R,9aS)-6-(4-hydroxy-2,3-dimethylphenyl)-octahydro-pyrido[1,2-a]pyrazin-2-yl]-(6-trifluoromethyl-pyridin-3-yl)-methanone | 3.55 mmol, 1.54 g | OC1=C(C(=C(C=C1)[C@H]1CCC[C@@H]2N1CCN(C2)C(=O)C=2C=NC(=CC2)C(F)(F)F)C)C | C23H26F3N3O2
reactant | KOH | 7.10 mmol, 400 mg, 1.5 eq | [OH-].[K+]
reactant | 1-bromopropane | 5.33 mmol, 2.0 eq | BrCCC | C3H7Br
solvent | CH3CN | CC#N | C2H3N
product | {(6R,9aS)-6-(2,3-dimethyl-4-propoxyphenyl)-hexahydro-1H-pyrido[1,2-a]pyrazin-2(6H)-yl}-(6-(trifluoromethyl)pyridin-3-yl)methanone | CC1=C(C=CC(=C1C)OCCC)[C@H]1CCC[C@@H]2N1CCN(C2)C(=O)C=2C=NC(=CC2)C(F)(F)F | C26H32F3N3O2
